US05043142
To a solution of 812 mg (20.3 mmol) of sodium hydride contained at 60% in mineral oil in dry dimethylformamide (100 ml) was added 3.01 g (16.1 mmol) of 4-bromobenzyl alcohol in the atmosphere of argon, and the mixture was allowed to react at 40°-50° C. for 30 min. followed by addition of 2.85 g (13.2 mmol) of 4-nitrobenzyl bromide. The mixture was reacted at room temperature for 17 hours. To the reaction mixture at 0° C. was added saturated aqueous solution of ammonium chloride followed by extraction with ethyl acetate. The organic layer was washed with water and then concentrated under reduced pressure. The residue thus obtained was subjected to silica gel column chromatography for separation and purification. Elution with dichloromethane-hexane (1:1) yielded 2.76 g (8.57 mmol) of 4-bromobenzyl 4-nitrobenzyl ether.

reactant | sodium hydride | 20.3 mmol, 812 mg | [H-].[Na+]
reactant | 4-bromobenzyl alcohol | 16.1 mmol, 3.01 g | BrC1=CC=C(CO)C=C1 | C7H7BrO
reactant | 4-nitrobenzyl bromide | 13.2 mmol, 2.85 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 4-bromobenzyl 4-nitrobenzyl ether | 8.57 mmol, 2.76 g | [N+](=O)([O-])C1=CC=C(COCC2=CC=C(C=C2)Br)C=C1 | C14H12BrNO3
